US08383624B2
tert-butyl 3-(6-chloro-4-iodopyridin-2-ylamino)piperidine-1-carboxylate
A mixture of 2,6-dichloro-4-iodopyridine (1 g, 3.65 mmol) and tert-butyl 3-aminopiperidine-1-carboxylate (3.66 g, 18 mmol) in a sealed tube was heated at 120° C. for 3 days. After cooling, the mixture was poured into 100 mL of water. The solid was collected by filtration and purified by flash chromatography on silica gel eluting with ethyl acetate to provide 680 mg of the title compound. Yield: 43%. MS (DCI/NH3) m/z 438 (M+H)+.

reactant | 2,6-dichloro-4-iodopyridine | 3.65 mmol, 1 g | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | tert-butyl 3-aminopiperidine-1-carboxylate | 18 mmol, 3.66 g | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | water | 100 mL | O | H2O
product | tert-butyl 3-(6-chloro-4-iodopyridin-2-ylamino)piperidine-1-carboxylate | 680 mg, Yield: 43% | ClC1=CC(=CC(=N1)NC1CN(CCC1)C(=O)OC(C)(C)C)I | C15H21ClIN3O2
